.include data.net
*
* Circuit simulator for t1
*
* NGSPICE simulation script
* BJT amp with feedback
*
*CIRCUITO
.options savecurrents

* Boundary Conditions
.ic V(6)=5.528929 V(9)=-1.83752

* supply voltage
Vs 1 0 0.0 ac 0.0 sin(0 1 6283.185307)

* Resistances
R1 1 2 RR1
R2 2 3 RR2
R3 2 5 RR3
R4 0 5 RR4
R5 5 6 RR5
R6 0 7 RR6
R7 9 8 RR7

* Voltage Sources
Vee 7 9 0
Hc 5 8 Vee Kd

* Current Sources
Gb 6 3 2 5 Kb

* Capacitors turnd into a voltage source
Vx 6 8 Vxx


*Control commads
.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

print @R1[i]

echo  "op_V0_TAB"
print all
echo  "op_V0_END"



quit
.endc

.end